US07465825B2
Step 6. 2-(3′-Dibenzofuran-4-yl-biphen-3-ylmethylsulfanyl)-propionic acid
2N Sodium hydroxide solution (0.33 mL, 0.66 mmol) was added dropwise to a stirred solution of methyl-2-(3′-dibenzofuran-4-yl-biphen-3-ylmethylsulfanyl)-propionate (100 mg, 0.22 mmol) in tetrahydrofuran (5 mL) and methanol (1 mL). The clear reaction mixture was stirred at room temperature until the reaction was complete (TLC control), and then diluted with water (5 mL), and acidified to pH 3 with 2N hydrochloric acid. The reaction mixture was extracted with ethyl acetate (2×20 mL). The combined extract was washed with water, brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification of the product by flash column chromatography, using 5-10% methanol in methylene chloride as eluent, afforded the title compound has a white solid (86 mg, 89%); Rf: 0.40 (10% methanol in dichloromethane); 1H NMR (DMSO-d6): □ 8.19 (2H, m, Ar—H), 8.02 (2H, d, J=9 Hz, Ar—H), 7.86 (2H, d, J=9 Hz, Ar—H), 7.75 (4H, m, Ar—H), 7.29-7.41 (5H, m, Ar—H), 3.96 (2H, s, PhCH2S), 3.36 (1H, q, J=7 Hz, SCHMe), 1.36 (3H, d, J=7 Hz, CHMe); ESI-LCMS e/z calcd for C28H22O3S 438.54, found 439 (M+H)+.

reactant | Sodium hydroxide | 0.66 mmol, 2N, 0.33 mL | [OH-].[Na+]
reactant | methyl-2-(3′-dibenzofuran-4-yl-biphen-3-ylmethylsulfanyl)-propionate | 0.22 mmol, 100 mg | COC(C(C)SCC1=CC=CC(=C1)C1=CC(=CC=C1)C1=CC=CC2=C1OC1=C2C=CC=C1)=O | C29H24O3S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 2-(3′-Dibenzofuran-4-yl-biphen-3-ylmethylsulfanyl)-propionic acid | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C=3C=C(C=2C=CC=C(C2)CSC(C(=O)O)C)C=CC3 | C28H22O3S
